US07786132B2
Mucobromic acid (58.05 g, 0.225 mol) was added to a stirred solution of 2-methyl-2-thio-pseudourea sulfate (62.66 g, 0.225 mol) in water (500 mL) at r.t. The suspension was cooled to 10° C. (ice bath) and triethylamine (94.1 mL, 0.675 mol) was added dropwise over 4 h. The reaction mixture was then left to stand at r.t. for 24 h. Activated carbon (Darco G-60) was added to the now dark red/brown solution and after stirring for 10 min the charcoal was filtered off. The filtrate was acidified with concentrated hydrochloric acid (50 mL) and the yellow precipitate was filtered off, washed with water (2×80 mL) and diethyl ether (2×100 mL), and then placed in a vacuum oven at 50° C. for 2 days to yield 5-bromo-2-(methylthio)pyrimidine-4-carboxylic acid (33.13 g, 59%) as a yellow amorphous solid. 1H NMR δ (d6-DMSO, 400 MHz) 2.75 (s, 3H), 9.20 (s, 1H).

reactant | Mucobromic acid | 0.225 mol, 58.05 g | C(/C(/Br)=C(/Br)\C=O)(=O)O | C4H2Br2O3
reactant | 2-methyl-2-thio-pseudourea sulfate | 0.225 mol, 62.66 g | S(=O)(=O)(O)O.CSC(N)=N
reactant | triethylamine | 0.675 mol, 94.1 mL | C(C)N(CC)CC | C6H15N
reactant | charcoal | C | CH4
solvent | water | 500 mL | O | H2O
product | 5-bromo-2-(methylthio)pyrimidine-4-carboxylic acid | 33.13 g, 59% | BrC=1C(=NC(=NC1)SC)C(=O)O | C6H5BrN2O2S
